US05100874
To Boc-Ala-NHOBzl (1.47 g; 4.99 mmol) obtained in (A) was added under ice cooling 4.5N-HCl/AcOEt (10 ml). After the mixture was brought back to room temperature, the reaction was carried out for 1 hour. The solvent was distilled off under reduced pressure and the residue was dissolved in THF (20 ml) and cooled with a coolant at -20° C. TEA (0.84 ml; 6.0 mmol) was added dropwise and HOBt (0.68 g; 5.03 mmol) and Boc-Leu-OH (product from azeotropic dehydration with benzene of the monohydrate (1.17 g; 4.69 mmol)) were added. DCC (1.35 g; 6.50 mmol) dissolved in THF (5 ml) was added dropwise, and the reaction was carried out for 1 hour at -10° C. and overnight in a refrigerator. Insolubles were removed by filtration and the solvent was distilled off under reduced pressure. The residue was dissolved in AcOEt and washed successively with water, 1N-HCl, water, 10% Na2CO3 and water. The solution was dried over anhydrous MgSO4 and the solvent was distilled off under reduced pressure. The residue was solidified from AcOEt to give Boc-Leu-Ala-NHOBzl (1.53 g; 80%) as colorless crystals. m.p. 164°-166° C., specific rotation [α]D28 -46.0 (c=1.0, EtOH).

reactant | HCl AcOEt | 10 ml | Cl.CCOC(=O)C
reactant | HOBt | 5.03 mmol, 0.68 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Boc-Leu-OH | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | DCC | 6.50 mmol, 1.35 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | THF | 5 ml | C1CCOC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Boc-Leu-Ala-NHOBzl | 1.53 g, 80% | N([C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)NOCC1=CC=CC=C1)C(=O)OC(C)(C)C | C21H33N3O5
